US08877739B2
2,5-Dichloro-3-aminobenzoic acid, 206 mg (1.0 mmol), was dissolved in 4 ml of acetone, and 0.7 ml (1.4 mmol) of 2.0 M trimethylsilyl diazomethane solution in hexane was added to the solution. The mixture was stirred at room temperature for 1.5 hours. The solvent was removed by distillation to give methyl 2,5-dichloro-3-aminobenzoate.

reactant | 2,5-Dichloro-3-aminobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1N)Cl | C7H5Cl2NO2
reactant | trimethylsilyl diazomethane | 1.4 mmol, 2.0 M, 0.7 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
product | methyl 2,5-dichloro-3-aminobenzoate | ClC1=C(C(=O)OC)C=C(C=C1N)Cl | C8H7Cl2NO2
